US04067723
A mixture of 2-methylbenzoyl chloride (prepared as described by Frankland and Ashton, Trans. Chem. Soc. 1899, 75, 494; 77 g.), methyl 2-furoate (83 g.), anhydrous ferric chloride (1.5 g.) and carbon tetrachloride (125 ml.) was heated under reflux on a steam bath for 7.5 hours and then distilled to give methyl 5-(2-methylbenzoyl)-2-furoate (110 g.) in the form of a colourless oil, b.p. 170° C./0.2 mm.Hg.

reactant | 2-methylbenzoyl chloride | 77 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | methyl 2-furoate | 83 g | O1C(=CC=C1)C(=O)OC | C6H6O3
solvent | carbon tetrachloride | 125 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 5-(2-methylbenzoyl)-2-furoate | 110 g | CC1=C(C(=O)C2=CC=C(O2)C(=O)OC)C=CC=C1 | C14H12O4
